US05500453
A solution of 4.17 g of lithium vinyltris(p-fluorophenyl)borate in 50 ml of acetonitrile was added to solution of 5.00 g of bis(p-tert-butylphenyl)[3,3-bis(methoxycarbonyl)-2-phenyl-2-propenyl]sulfonium perchlorate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.85 g of bis(p-tert-butylphenyl)[3,3-bis(methoxycarbonyl)-2-phenyl-2-propenyl]sulfonium-vinyltris(p-fluorophenyl)borate.

reactant | lithium vinyltris(p-fluorophenyl)borate | 4.17 g | C(=C)[B-](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F.[Li+]
reactant | bis(p-tert-butylphenyl)[3,3-bis(methoxycarbonyl)-2-phenyl-2-propenyl]sulfonium perchlorate | 5.00 g | Cl(=O)(=O)(=O)[O-].C(C)(C)(C)C1=CC=C(C=C1)[S+](CC(=C(C(=O)OC)C(=O)OC)C1=CC=CC=C1)C1=CC=C(C=C1)C(C)(C)C
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | bis(p-tert-butylphenyl)[3,3-bis(methoxycarbonyl)-2-phenyl-2-propenyl]sulfonium vinyltris(p-fluorophenyl)borate | 2.85 g | C(C)(C)(C)C1=CC=C(C=C1)[S+](CC(=C(C(=O)OC)C(=O)OC)C1=CC=CC=C1)C1=CC=C(C=C1)C(C)(C)C.C(=C)[B-](C1=CC=C(C=C1)F)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | InChI=1S/C33H39O4S.C20H15BF3/c1-32(2,3)24-14-18-26(19-15-24)38(27-20-16-25(17-21-27)33(4,5)6)22-28(23-12-10-9-11-13-23)29(30(34)36-7)31(35)37-8;1-2-21(15-3-9-18(22)10-4-15,16-5-11-19(23)12-6-16)17-7-13-20(24)14-8-17/h9-21H,22H2,1-8H3;2-14H,1H2/q+1;-1
